US03968116
5-(TRIFLUOROMETHYL)-3-NITRO-2-(TRIFLUOROACETAMIDO)-PYRIDINE
5-(Trifluoromethyl)-3-nitro-2-aminopyridine (2.0 grams) was mixed with 10 milliliters of pyridine and 1 milliliter of trifluoroacetic anhydride added with cooling. After 30 minutes, the reaction mixture was heated to 100°C. and maintained thereat for 10 minutes. The reaction mixture was then poured into ice and hydrochloric acid (of a concentration of 50 grams of ice per 10 milliliters of hydrochloric acid). The reaction mixture was then filtered and the resulting residue, the desired 5-(trifluoromethyl)-3-nitro-2-(trifluoroacetamido)pyridine, taken up in chloroform, dried, and solvent evaporated to obtain a purified product. It was further recrystallized from benzene, m.p., 68°-70°C.

reactant | 5-(Trifluoromethyl)-3-nitro-2-aminopyridine | 2.0 grams | FC(C=1C=C(C(=NC1)N)[N+](=O)[O-])(F)F | C6H4F3N3O2
reactant | trifluoroacetic anhydride | 1 milliliter | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | Cl | ClH
reactant | hydrochloric acid | 10 milliliters | Cl | ClH
solvent | pyridine | 10 milliliters | N1=CC=CC=C1 | C5H5N
product | 5-(TRIFLUOROMETHYL)-3-NITRO-2-(TRIFLUOROACETAMIDO)-PYRIDINE | FC(C=1C=C(C(=NC1)NC(C(F)(F)F)=O)[N+](=O)[O-])(F)F | C8H3F6N3O3
